US04725599
Methyl trans-2-[3-(6,7-Dichloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl)-3-methoxy-1-piperidinecarboxylate
Under nitrogen in a flame dried round bottom flask with magnetic stirring, a solution of 0.440 g (0.002 moles) of 6,7-dichlorothieno[3,2-d]pyrimidin-4(3H)-one [M. Robba, J- M. Lecomte, and M. Cugnon de Sevricourt, Bull. soc. chim. France, 1970, 3630-3636], 5 ml of methanol, and 2.0 ml of 1.0N sodium methoxide in methanol was treated with a solution of 0.002 moles of methyl trans-3-methoxy-2-(3-bromo-2-oxopropyl)-1-piperidinecarboxylate and 2 ml of methanol. A colorless precipitate formed almost immediately; the reaction mixture was stirred for two hours at room temperature. The solid matter was some starting thienopyrimidinone, and was filtered. The filtrate was evaporated under reduced pressure to afford a greenish oil which was chromatographed under moderate pressure ("flash" chromatography) on a column of silica gel (Woelm 32-63 micrometers, i.d. 5 cm×height 18 cm); the eluant was initially 1% ethanol in chloroform but was changed to 2% ethanol later on. There was obtained the title compound: m.p. 58°-62° C.; yield 0.270 g (30%); mass spectrum peaks at 447 (molecular ion), 415 (--32, --CH3OH), 195 (parent) among others; 13C-nmr delta (CDCl3) 19.05 ppm, 23.42, 39.33, 40.81, 50.53, 52.93, 53.62, 56.35, 76.01, 119.92, 121.68, 149.62, 152.19, 155.49, 157.01, 199.22; 1H-nmr (CDCl3) delta 3.36 ppm (OCH3), 3.66 (CO2CH3) among others.

reactant | 6,7-dichlorothieno[3,2-d]pyrimidin-4(3H)-one | 0.002 moles, 0.440 g | ClC1=C(C=2N=CNC(C2S1)=O)Cl | C6H2Cl2N2OS
reactant | sodium methoxide | 1.0N, 2.0 ml | C[O-].[Na+]
reactant | methyl trans-3-methoxy-2-(3-bromo-2-oxopropyl)-1-piperidinecarboxylate | 0.002 moles | CO[C@H]1[C@@H](N(CCC1)C(=O)OC)CC(CBr)=O | C11H18BrNO4
reactant | thienopyrimidinone | N1=CN=CC2=C1C=CS2=O | C6H4N2OS
solvent | methanol | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | Methyl trans-2-[3-(6,7-Dichloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl)-3-methoxy-1-piperidinecarboxylate | ClC1=C(C=2N=CN(C(C2S1)=O)CC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OC)=O)Cl | C17H19Cl2N3O5S
